US07396847B2
[(5R)-3-(4-Iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate
[(5R)-3-phenyl-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate (41 g, 152 mmol) was dissolved in chloroform/acetonitrile (250/250 ml). Silver trifluoroacetate (50 g, 228 mmol) was added followed by portionwise addition of iodine (58 g, 228 mmol). After stirring the reaction overnight, the silver iodide was filtered off, and the filtrate was washed with solutions of 5% sodium thiosulfate (2×500 ml), saturated sodium bicarbonate (500 ml), brine, and dried over magnesium sulfate. The dried solution was evaorated to give the desired product as a yellow solid (32 g) that was used without further purification.

reactant | [(5R)-3-phenyl-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate | 152 mmol, 41 g | CS(=O)(=O)OC[C@H]1CN(C(O1)=O)C1=CC=CC=C1 | C11H13NO5S
reactant | iodine | 228 mmol, 58 g | II | I2
solvent | chloroform acetonitrile | 250 ml | C(Cl)(Cl)Cl.C(C)#N
catalyst | Silver trifluoroacetate | 228 mmol, 50 g | FC(C(=O)[O-])(F)F.[Ag+]
product | [(5R)-3-(4-Iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate | 32 g | CS(=O)(=O)OC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C11H12INO5S
